US05696138
N-(3-(trifluoromethyl)phenyl)-N'-(2-hydroxy-4-aminophenyl) urea.
N-(3-(trifluoromethyl)phenyl)-N'-(2-hydroxy-4-nitrophenyl) urea (1.00 g, 2.9 mmol) was subjected to catalytic reduction in tetrahydrofuran (50 ml) using 5% palladium on carbon (0.20 g). The reaction mixture was filtered through a path of celite. Evaporation of the filtrate and subsequent recrystallization of the crude product from methanol/water 1:1 (50 ml) afforded the title compound. 0.68 g (75%) of the title compound was isolated. M.p. 200°-202° C.

reactant | N-(3-(trifluoromethyl)phenyl)-N'-(2-hydroxy-4-nitrophenyl) urea | 2.9 mmol, 1.00 g | FC(C=1C=C(C=CC1)NC(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])O)(F)F | C14H10F3N3O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 0.20 g | [Pd] | Pd
product | N-(3-(trifluoromethyl)phenyl)-N'-(2-hydroxy-4-aminophenyl) urea | FC(C=1C=C(C=CC1)NC(=O)NC1=C(C=C(C=C1)N)O)(F)F | C14H12F3N3O2
